US06140351
To a solution of 2-carboxy-3-methylthiophene (10 g, 70.3 mmol) in 80 mL of trifluoroacetic acid at 0° C. was added HNO3 (1.2 mL, 1.0 eq.) dropwise. The reaction mixture was warmed to ambient temperature and after 4 hours another 1.0 eq. of HNO3 was added. The reaction mixture was made basic with aqueous sodium bicarbonate and washed with ethyl acetate. The aqueous layer was acidified with concentrated HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated in vacuo to afford 5.75 g (53%) of 2-carboxy-3-methyl-5-nitrothiophene and 2-carboxy-3-methyl-4-nitrothiophene, as a yellow solid.

reactant | 2-carboxy-3-methylthiophene | 70.3 mmol, 10 g | C(=O)(O)C=1SC=CC1C | C6H6O2S
reactant | HNO3 | 1.2 mL, 1.0 eq. | [N+](=O)(O)[O-] | HNO3
reactant | HNO3 | 1.0 eq. | [N+](=O)(O)[O-] | HNO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | trifluoroacetic acid | 80 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-carboxy-3-methyl-5-nitrothiophene | 5.75 g, 53% | C(=O)(O)C=1SC(=CC1C)[N+](=O)[O-] | C6H5NO4S
